US07491720B2
(5) Synthesis of methyl 4-(benzyloxy)-6-chloropyridine-2-carboxylate
To a solution of 258 mg of methyl 6-amino4-(benzyloxy)pyridine-2-carboxylate dissolved in 5 ml of chloroform, 170 mg of tert-butyl nitrate and 210 mg of copper(II) chloride were added, and the mixture was stirred for 6 hours with the light being shut out. Then saturated sodium bicarbonate was added to the resulting reaction mixture, and then the mixture was extracted with ethyl acetate. The organic layer was concentrated under a reduced pressure. The resulting residue was purified by flash chromatography (eluent: hexane/ethyl acetate) to yield the title compound.

reactant | methyl 6-amino4-(benzyloxy)pyridine-2-carboxylate | 258 mg | NC1=CC(=CC(=N1)C(=O)OC)OCC1=CC=CC=C1 | C14H14N2O3
reactant | tert-butyl nitrate | 170 mg | [N+](=O)(OC(C)(C)C)[O-] | C4H9NO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | copper(II) chloride | 210 mg | [Cu](Cl)Cl
product | methyl 4-(benzyloxy)-6-chloropyridine-2-carboxylate | C(C1=CC=CC=C1)OC1=CC(=NC(=C1)Cl)C(=O)OC | C14H12ClNO3
